US08497288B2
d) (2R,4S)-4-(tert-Butyl-diphenyl-silanyloxy)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid [4-(2,2,2-trifluoro-ethoxy)-phenyl]-amide
To a solution of (2R,4S)-4-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(2,2,2-trifluoro-ethoxy)-phenylcarbamoyl]-pyrrolidine-2-carboxylic acid methyl ester (5 g, 8.33 mmol) in THF (30 mL) was added LiBH4 (2M in THF, 6.25 mL) at 0° C. and stirred for 2 h. The mixture was quenched with AcOH at 0° C. and diluted with DCM. The organic layer was washed with sat NaHCO3 solution, dried over Na2SO4 and concentrated. The residue was purified through column chromatography over silica (elution with 40% ethyl acetate in hexane) to yield 4.3 g (91%) of the title compound as pale yellow sticky liquid. LC-MS: 573.6 [M+1]+.

reactant | (2R,4S)-4-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(2,2,2-trifluoro-ethoxy)-phenylcarbamoyl]-pyrrolidine-2-carboxylic acid methyl ester | 8.33 mmol, 5 g | COC(=O)[C@@H]1N(C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(NC1=CC=C(C=C1)OCC(F)(F)F)=O | C31H35F3N2O5Si
reactant | LiBH4 | 2M, 6.25 mL | [Li+].[BH4-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2R,4S)-4-(tert-Butyl-diphenyl-silanyloxy)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid [4-(2,2,2-trifluoro-ethoxy)-phenyl]-amide | 4.3 g, 91% | FC(COC1=CC=C(C=C1)NC(=O)N1[C@H](C[C@@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)(F)F | C30H35F3N2O4Si
